US08791255B2
The product is prepared according to the procedure described in Example 5, using 500 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 815 mg of 2-amino-5-fluorophenol in place of the 2,4-difluoroaniline. After purification by silica column chromatography, eluent: CH2Cl2/MeOH 95/5, 149 mg of N-(4-fluoro-2-hydroxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a grey solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 500 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-amino-5-fluorophenol | 815 mg | NC1=C(C=C(C=C1)F)O | C6H6FNO
product | N-(4-fluoro-2-hydroxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 149 mg | FC1=CC(=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)O | C16H17FN4O4
